US05502065
Diethyl(3-pyridyl)borane
n-Butyllithium (25.6 ml of a 2.5M solution in hexanes, 64 mmol) was added as a rapid stream of droplets to a solution of 3-bromopyridine (10.04 g, 64 mmol) in ether (200 ml) at -40° C., under nitrogen. The addition was carried out over 5 minutes and the reaction temperature was maintained below -40° C. throughout. The reaction was stirred at -40° C. for 20 minutes and then cooled to -70° C. whereupon diethylmethoxyborane in tetrahydrofuran (64.0 ml of a 1M solution, 64 mmol) was added as a rapid stream of droplets over 5 minutes. The reaction temperature was maintained below -63° C. throughout this addiition. The reaction was then allowed to warm slowly to room temperature whereupon it was diluted with ethylacetate and washed with brine. The organic layer was dried (Na2SO4) and the solvent removed under reduced pressure to give the crude product. This was purified by column chromatography on silica gel, eluting with dichloromethane to afford, after combination and evaporation of the appropriate fractions, the title compound as a yellow crystalline solid (7.3 g). Found: C,73.40; H,9.53; N,8.92; C9H14NB requires: C,73.52; H,9.60; N,9.53%.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | 3-bromopyridine | 64 mmol, 10.04 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | diethylmethoxyborane | C(C)B(OC)CC | C5H13BO
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | Diethyl(3-pyridyl)borane | C(C)B(C=1C=NC=CC1)CC | C9H14BN
